US04397847
To a mixture of 0.20 g (0.0053 mol) of lithium aluminum hydride and 10 mL of tetrahydrofuran at 0° C. was added 2.55 g (0.0034 mol) of [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-oic acid ethyl ester in 35 mL of tetrahydrofuran. The mixture was heated at 50° C. for 1.5 hr, recooled to 0° C., and diluted with 120 mL of ether. The mixture was then quenched with the dropwise addition of 0.40 ml of water and 0.32 mL of 10% aqueous sodium hydroxide. The mixture was stirred at 25° C. for 1 hr and was filtered. The solids were triturated with ether and filtered. Evaporation of solvent afforded [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21ol, [α]D20 +4° (c 1, CHCl3).

reactant | lithium aluminum hydride | 0.0053 mol, 0.20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-oic acid ethyl ester | 0.0034 mol, 2.55 g | C(C)OC([C@H](CCC(C(C)(C)OC(C)OCC)(F)F)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1)=O | C43H70F2O8
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | ether | 120 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21ol | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)OC(C)OCC)(F)F)CO)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H68F2O7
